*********
*==========================================================
* CCL and CCLH Series of Current Regulator Diodes
* Central Semiconductor Corp.
* PSpice Compatible Models
*
* These models were developed for Central Semiconductor Corp. by:
* AEI Systems, LLC
* 5777 W. Century Blvd. Suite 876
* Los Angeles, California 90045
* Copyright 2002, all rights reserved.
*
* This model is subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be used, modified, or altered 
* without the consent of Central Semiconductor. 
*
* For more information regarding modeling services,
* model libraries and simulation products, please
* call AEi Systems at (310) 216-1144, or contact 
* AEi by email: info@aeng.com. http://www.AENG.com
*
* Revision: B
*==========================================================
*********
.SUBCKT CCL0035 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL0035J 
.MODEL CCL0035J NJF VTO=-0.52 BETA=.13M LAMBDA=0.1M BETATCE=0.30 VTOTC=-.0025
+ IS=100.58F PB=0.8 FC=.5 RS=175 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
.SUBCKT CCL0130 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL0130J 
.MODEL CCL0130J NJF VTO=-0.52 BETA=.36M LAMBDA=0.1M BETATCE=-.76 VTOTC=-.0046
+ IS=100.58F PB=0.8 FC=.5 RS=225 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
.SUBCKT CCL0300 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL0300J 
.MODEL CCL0300J NJF VTO=-1.13 BETA=.32M LAMBDA=0.1M BETATCE=-.06 
+ IS=100.58F PB=0.8 FC=.5 RS=265 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
.SUBCKT CCL0500 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL0500J 
.MODEL CCL0500J NJF VTO=-1.23 BETA=.38M LAMBDA=0.1M BETATCE=-.13 
+ IS=100.58F PB=0.8 FC=.5 RS=265 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
.SUBCKT CCL0750 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL0750J 
.MODEL CCL0750J NJF VTO=-1.35 BETA=.57M LAMBDA=0.1M BETATCE=-.32 
+ IS=100.58F PB=0.8 FC=.5 RS=225 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
.SUBCKT CCL1000 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL1000J 
.MODEL CCL1000J NJF VTO=-1.95 BETA=.455M LAMBDA=0.1M BETATCE=-.42
+ IS=100.58F PB=0.8 FC=.5 RS=225 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
.SUBCKT CCL1500 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL1500J 
.MODEL CCL1500J NJF VTO=-2.45 BETA=.387M LAMBDA=0.1M BETATCE=-.52
+ IS=100.58F PB=0.8 FC=.5 RS=220 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
.SUBCKT CCL2000 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL2000J 
.MODEL CCL2000J NJF VTO=-3.15 BETA=.28M LAMBDA=0.1M BETATCE=-.62 VTOTC=-.003
+ IS=100.58F PB=0.8 FC=.5 RS=220 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
.SUBCKT CCL2700 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL2700J 
.MODEL CCL2700J NJF VTO=-4.05 BETA=.217M LAMBDA=0.1M BETATCE=-.77 VTOTC=-.0035
+ IS=100.58F PB=0.8 FC=.5 RS=210 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
.SUBCKT CCL3500 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL3500J 
.MODEL CCL3500J NJF VTO=-4.45 BETA=.262M LAMBDA=0.1M BETATCE=-0.87 VTOTC=-.0038
+ IS=100.58F PB=0.8 FC=.5 RS=165 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
.SUBCKT CCL4500 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL4500J 
.MODEL CCL4500J NJF VTO=-5.15 BETA=.232M LAMBDA=0.1M BETATCE=-0.96 VTOTC=-.0041
+ IS=100.58F PB=.8 FC=.5 RS=165 RD=4 CGS=1.57P CGD=4.78P
.ENDS
*********
.SUBCKT CCL5750 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL5750J 
.MODEL CCL5750J NJF VTO=-5.85 BETA=.228M LAMBDA=0.1M BETATCE=-1.13 VTOTC=-.0043
+ IS=100.58F PB=.8 FC=.5 RS=152 RD=3 CGS=1.57P CGD=11.78P
.ENDS
*********
.SUBCKT CCLH080 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCLH080J 
.MODEL CCLH080J NJF VTO=-6.75 BETA=.246M LAMBDA=0.1M BETATCE=-0.59 VTOTC=-.0047
+ IS=100.58F PB=.8 FC=.5 RS=125 RD=3 CGS=1.57P CGD=9.23P
.ENDS
*********
.SUBCKT CCLH100 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCLH100J 
.MODEL CCLH100J NJF VTO=-7.25 BETA=.273M LAMBDA=0.1M BETATCE=-0.81 VTOTC=-.0051
+ IS=100.58F PB=.8 FC=.5 RS=125 RD=3 CGS=1.57P CGD=12.23P
.ENDS
*********
.SUBCKT CCLH120 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCLH120J 
.MODEL CCLH120J NJF VTO=-7.84 BETA=.293M LAMBDA=0.1M BETATCE=-0.86 VTOTC=-.0053
+ IS=100.58F PB=.8 FC=.5 RS=125 RD=3 CGS=1.57P CGD=14.23P
.ENDS
*********
.SUBCKT CCLH150 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCLH150J 
.MODEL CCLH150J NJF VTO=-8.48 BETA=.33M LAMBDA=0.1M BETATCE=-0.81 VTOTC=-.0055
+ IS=100.58F PB=.8 FC=.5 RS=120 RD=3 CGS=1.57P CGD=9.43P
.ENDS
*********


